US07696223B2
e) 2-Bromo-3-tert-butyl-1-(4-fluoro-phenyl)-4-oxo-1,4,5,7-tetrahydro-pyrrolo[2,3-c]pyridine-5,6-dicarboxylic acid 6-tert-butyl ester 5-ethyl ester
To a solution of 5-bromo-2-[(tert-butoxycarbonyl-ethoxycarbonylmethyl-amino)-methyl]-4-tert-butyl-1-(4-fluoro-phenyl)-1H-pyrrole-3-carboxylic acid ethyl ester (4.0 g, ˜6.28 mmol) in THF (15 mL) at −78° C. was added a solution of KOtBu in THF (9.42 mL, 9.42 mmol, 1 M); the reaction was stirred for 30 min at −78° C. and for 30 at room temperature. The reaction was subsequently quenched with saturated ammonium chloride aqueous solution, extracted with EtOAc, washed with water, and saturated NaCl aqueous solution, dried over anhydrous sodium sulfate, filtered, concentrated, to give an oil, the title product (3.24 g, crude), which was not further purified. The title product, 1H NMR (200 MHz, CDCl3): δ (ppm)=4.4-7.0 (m, 4H), 4.5-4.1 (m, 5H), 1.6-1.2 (m, 21H).

reactant | 5-bromo-2-[(tert-butoxycarbonyl-ethoxycarbonylmethyl-amino)-methyl]-4-tert-butyl-1-(4-fluoro-phenyl)-1H-pyrrole-3-carboxylic acid ethyl ester | ˜6.28 mmol, 4.0 g | C(C)OC(=O)C1=C(N(C(=C1C(C)(C)C)Br)C1=CC=C(C=C1)F)CN(CC(=O)OCC)C(=O)OC(C)(C)C | C27H36BrFN2O6
reactant | KOtBu | CC(C)(C)[O-].[K+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 9.42 mmol, 1 M, 9.42 mL | C1CCOC1 | C4H8O
product | 2-Bromo-3-tert-butyl-1-(4-fluoro-phenyl)-4-oxo-1,4,5,7-tetrahydro-pyrrolo[2,3-c]pyridine-5,6-dicarboxylic acid 6-tert-butyl ester 5-ethyl ester | 3.24 g | C(C)OC(=O)C1C(C2=C(CN1C(=O)OC(C)(C)C)N(C(=C2C(C)(C)C)Br)C2=CC=C(C=C2)F)=O | C25H30BrFN2O5
